US08183380B2
(1S,4S)-5-(Imidazole-1-sulfonyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane was prepared in accordance with step A of the general method described in example 76 from all-(S)-(+)-2-oxa-5-aza-bicyclo[2.2.1]heptane hydrochloride and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=230.5 (M+H−).

reactant | (S)-(+)-2-oxa-5-aza-bicyclo[2.2.1]heptane hydrochloride | Cl.[C@@H]12OCC(NC1)C2
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | (1S,4S)-5-(Imidazole-1-sulfonyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane | N1(C=NC=C1)S(=O)(=O)N1[C@@H]2CO[C@H](C1)C2 | C8H11N3O3S
